### PR TITLE
[Merged by Bors] - feat: the complement of a countable set is path-connected in dimension > 1

### PR DESCRIPTION
**Pull request by sgouezel**
Also show that spheres are path-connected in dimension > 1.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/Connected.lean [hunk 1]
```diff
@@ -0,0 +1,188 @@
...
+  · simp
+  · have A : s = t := by simpa [mul_eq_mul_left_iff, hq0'.ne'] using (h.eq_of_pair H').2
+    exact (hs A).elim
+
+variable [TopologicalSpace E] [ContinuousAdd E] [ContinuousSMul ℝ E]
+
+/-- In a real vector space of dimension `> 1`, the complement of any countable set is path
+connected. -/
+theorem Set.Countable.isPathConnected_compl_of_one_lt_rank
+    (h : 1 < Module.rank ℝ E) {s : Set E} (hs : s.Countable) :
```
Comment (ocfnash) [inline Mathlib/Analysis/NormedSpace/Connected.lean:52]: Do you think there's a case for a typeclass to capture `h` here? I can't immediately think of a good name but maybe something like:
```lean
class ContainsPlane (K V : Type*) [Semiring K] [AddCommMonoid V] [Module K V] : Prop :=
  one_lt_rank : 1 < Module.rank K V
```
That way some of the results here could be instances / simp lemmas. More importantly, it would make the results here unopinionated about the way in which the concept "dimension > 1" is expressed which should, for example, provide a convenient means to make these results available in a situation where someone has `[FiniteDimensional K V]` and information about `finrank K V`.

File: Mathlib/Analysis/NormedSpace/Connected.lean [hunk 2]
```diff
@@ -0,0 +1,188 @@
...
+
+open Convex Set Metric
+
+section TopologicalVectorSpace
+
+variable {E : Type*} [AddCommGroup E] [Module ℝ E]
+
+lemma segment_inter_eq_endpoint_of_linearIndependent
+    {x y : E} (h : LinearIndependent ℝ ![x, y]) {s t : ℝ} (hs : s ≠ t) (c : E) :
+    [c + x -[ℝ] c + t • y] ∩ [c + x -[ℝ] c + s • y] ⊆ {c + x} := by
```
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Analysis/NormedSpace/Connected.lean]: I've added more API for linear independence of pairs and refactored through your lemma. Since that's a very specific statement, only needed for the next proof, I'd rather keep it in this file (and over the reals only) though.

File: Mathlib/Analysis/NormedSpace/Connected.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/Analysis/NormedSpace/Connected.lean:64]: I think we should only implement this typeclass when there is something concrete to gain for it and when there are more lemmas that take advantage of it. (Also, what about higher-dimensional analogues?)

Comment (ocfnash) [reply Mathlib/Analysis/NormedSpace/Connected.lean:64]: Ah yes, the class would probably be something like:
```lean
class RankAtLeast (K V : Type*) [Semiring K] [AddCommMonoid V] [Module K V] (n : Cardinal) : Prop :=
  le_rank : n ≤ Module.rank K V
```
but I agree we can wait till the need is greater. (A quick scan of the library for the regex `(≤|<) (Module\.|fin|)rank` finds a few would-be instances but not really any consumers.)

Comment (ocfnash) [reply Mathlib/Analysis/NormedSpace/Connected.lean:64]: I encourage you to generalise + relocate `segment_inter_eq_endpoint_of_linearIndependent_sub` but I do not insist: I agree this is subjective.

File: Mathlib/Analysis/NormedSpace/Connected.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Analysis/NormedSpace/Connected.lean]: I encourage you to generalise + relocate `segment_inter_eq_endpoint_of_linearIndependent_sub` but I do not insist: I agree this is subjective.

File: Mathlib/Analysis/NormedSpace/Connected.lean [hunk 3]
```diff
@@ -0,0 +1,202 @@
...
+    · rintro - ⟨y, hy, rfl⟩
+      have : ‖y‖ ≠ 0 := by simpa using hy
+      simp [norm_smul, abs_of_nonneg hr, mul_assoc, inv_mul_cancel this]
+    · intro y hy
+      refine ⟨y - x, ?_, ?_⟩
+      · intro H
+        simp only [mem_singleton_iff, sub_eq_zero] at H
+        simp only [H, mem_sphere_iff_norm, sub_self, norm_zero] at hy
+        exact rpos.ne hy
+      · simp at hy
```
Comment (ocfnash) [inline Mathlib/Analysis/NormedSpace/Connected.lean:186]: We should really squeeze this:
```suggestion
      · simp at hy
```
(or something else like `replace hy : ... := by simpa using hy`)

**Comment by ocfnash** [comment]
Thanks, this is great!

bors d+

File: Mathlib/Analysis/NormedSpace/Connected.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Analysis/NormedSpace/Connected.lean]: Moved and generalized.
